US07960394B2
2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-8-methoxyquinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 2-amino-3-methoxybenzoic acid, ammonia and 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde.

reactant | 2-amino-3-methoxybenzoic acid | NC1=C(C(=O)O)C=CC=C1OC | C8H9NO3
reactant | ammonia | N | H3N
reactant | 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C16H21NO2
product | 2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-8-methoxyquinazolin-4(3H)-one | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1=NC2=C(C=CC=C2C(N1)=O)OC | C24H27N3O3
